US04985428
To a solution of N-(3-bromo-5-isoxazolecarbonyl)-4-aminobutyric acid (11.08 g; 0.04 mol), prepared according to the method described in example 1, in aqueous ethanol at 95% (80 ml), 2-amino-2-hydroxymethyl-1,3-propanediol (4.85 g; 0.04 mol) was added and the solution was stirred for 30 minutes at room temperature. After evaporation of the solvent, the solid residue was crystallized from isopropanol (160 ml) giving N-(3-bromo-5-isoxazolecarbonyl)-4-aminobutyric acid 2-amino-2-hydroxymethyl-1,3-propanediol salt (14.8 g; 93% yield) with m.p. 133°-135° C.

reactant | N-(3-bromo-5-isoxazolecarbonyl)-4-aminobutyric acid | 0.04 mol, 11.08 g | BrC1=NOC(=C1)C(=O)NCCCC(=O)O | C8H9BrN2O4
reactant | 2-amino-2-hydroxymethyl-1,3-propanediol | 0.04 mol, 4.85 g | NC(CO)(CO)CO | C4H11NO3
solvent | ethanol | C(C)O | C2H6O
product | N-(3-bromo-5-isoxazolecarbonyl)-4-aminobutyric acid 2-amino-2-hydroxymethyl-1,3-propanediol salt | 14.8 g, 93% yield | NC(CO)(CO)CO.BrC1=NOC(=C1)C(=O)NCCCC(=O)O | InChI=1S/C8H9BrN2O4.C4H11NO3/c9-6-4-5(15-11-6)8(14)10-3-1-2-7(12)13;5-4(1-6,2-7)3-8/h4H,1-3H2,(H,10,14)(H,12,13);6-8H,1-3,5H2
